US07635715B2
Step E: Preparation of N-((4-Hydroxy-1,1-dimethyl-6-(methylthio)-2-oxo-naphthalen-3-yl)carbonyl)glycine
A solution of 1,1-dimethylethyl N-((4-hydroxy-1,1-dimethyl-6-(methylthio)-2-oxo-naphthalen-3-yl)carbonyl)glycinate (0.180 g, 0.460 mmol) in TFA (0.0342 mL, 0.460 mmol) was stirred at 25° C. for 10 minutes. The solution was concentrated, azeotroped in DCM (2×300 mL), and dried in vacuo to give the title compound (0.150 g). MS m/e=336 (M+H)+. Calculated for C16H17NO5S 335.08.

reactant | 1,1-dimethylethyl N-((4-hydroxy-1,1-dimethyl-6-(methylthio)-2-oxo-naphthalen-3-yl)carbonyl)glycinate | 0.460 mmol, 0.180 g | OC1=C(C(C(C2=CC=C(C=C12)SC)(C)C)=O)C(=O)NCC(=O)OC(C)(C)C | C20H25NO5S
reactant | TFA | 0.460 mmol, 0.0342 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-((4-Hydroxy-1,1-dimethyl-6-(methylthio)-2-oxo-naphthalen-3-yl)carbonyl)glycine | 0.150 g | OC1=C(C(C(C2=CC=C(C=C12)SC)(C)C)=O)C(=O)NCC(=O)O | C16H17NO5S
